US09399639B2
N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-N-(propylsulfonyl)acetamide
The title compound was prepared according to the procedure as described in Example 3 using N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.2 g, 0.41 mmol), triethylamine (1 mL) and acetyl chloride (116 μL, 1.64 mmol) in 1,4-dioxane (10 mL). The title compound was obtained as a white solid (69 mg, 31.8%). The title compound was characterized by LCMS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.41 mmol, 0.2 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.64 mmol, 116 μL | C(C)(=O)Cl | C2H3ClO
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-N-(propylsulfonyl)acetamide | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)N(C(C)=O)S(=O)(=O)CCC)F | C25H20ClF2N3O4S
